### PR TITLE
[Merged by Bors] - feat(CategoryTheory): The whiskering functor preserves identity and composition of functors

### PR DESCRIPTION
**Pull request by javra**
---
* Should I make these isos instead of equalities?
* Should I make a variant of `whiskeringLeft` and `whiskeringRight` as functors from `_Cat` to `_Cat`? (I just need the things contained so far, not the functor instance...)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Whiskering.lean [hunk 1]
```diff
@@ -113,6 +113,26 @@ def Functor.FullyFaithful.whiskeringRight {F : D ⥤ E} (hF : F.FullyFaithful)
         simp only [map_comp, map_preimage]
         apply f.naturality }
 
+@[simp]
+theorem whiskeringLeft_obj_id : (whiskeringLeft C C E).obj (.id _) = .id _ :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Whiskering.lean:117]: The standard practice in the category theory library is to use the notation:
```suggestion
theorem whiskeringLeft_obj_id : (whiskeringLeft C C E).obj (𝟭 _) = 𝟭 _ :=
```

File: Mathlib/CategoryTheory/Whiskering.lean [hunk 2]
```diff
@@ -113,6 +113,26 @@ def Functor.FullyFaithful.whiskeringRight {F : D ⥤ E} (hF : F.FullyFaithful)
...
+  rfl
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Whiskering.lean:120]: I am not completely sure we want to set the `simp` attribute here.

Comment (javra) [reply Mathlib/CategoryTheory/Whiskering.lean:120]: Are you referring to the `whiskeringLeft_obj_conp` only? I'm not sure about that one was well (or about its direction), I'll look at a few similar examples... Have you seen my questions in the PR comment above?

Comment (joelriou) [reply Mathlib/CategoryTheory/Whiskering.lean]: I am referring to both `_comp`. I am ok with the `_id`. You may very well add `...Iso` versions of these as well.
(I do not have a strong opinion of functors from `Cat` to `Cat`. It may go in a separate PR *if there is a need for these*.)

Comment (joelriou) [reply Mathlib/CategoryTheory/Whiskering.lean]: I would trust the opinion of @yuma-mizuno about not using the `simp` attribute for the `_id` as well.

Comment (javra) [reply Mathlib/CategoryTheory/Whiskering.lean]: Thanks!

**Comment by joelriou** [comment]
Thanks!

bors merge
